US05393875
In an analogous manner to that described in paragraph (d) above, by reacting cyclopropanecarbonyl chloride and benzyl rac-α-[[(2-hydroxy-1,1-dimethylethyl)sulfonyl]methyl]hydrocinnamate in pyridine there was obtained benzyl rac-[[[2-[(cyclopropylcarbonyl)oxy]-1,1-dimethylethyl]sulfonyl]methyl]hydrocinnamate as a colourless oil, MS: 367 (M-benzyl)+.

reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | benzyl rac-α-[[(2-hydroxy-1,1-dimethylethyl)sulfonyl]methyl]hydrocinnamate | OCC(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H26O5S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | benzyl rac-[[[2-[(cyclopropylcarbonyl)oxy]-1,1-dimethylethyl]sulfonyl]methyl]hydrocinnamate | C1(CC1)C(=O)OCC(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H30O6S
